*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/4.70e-01[uF]/50[V]
* Murata P/N :GRM155R61H474ME11
* Property : C = 4.70e-01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R61H474ME11 Port1 Port2
C01 Port1 N01 3.44e-07
R01 Port1 N01 1.06e+08
L02 N01 N02 1.71e-10
R03 N02 N03 1.85e-02
C04 N03 N04 1.47e-05
R04 N03 N04 2.70e+02
C05 N04 N05 1.99e-05
R05 N04 N05 2.70e+01
C06 N05 N06 2.19e-05
R06 N05 N06 3.32e+00
C07 N06 N07 1.82e-05
R07 N06 N07 6.94e-01
C08 N07 N08 1.26e-05
R08 N07 N08 1.23e-01
C09 N08 N09 1.78e-04
R09 N08 N09 1.07e-01
C10 N09 N10 6.52e-06
R10 N09 N10 2.21e-02
L11 N10 N11 2.89e-11
R11 N10 N11 3.25e-01
L12 N11 N12 3.26e-11
R12 N11 N12 7.09e-02
L13 N12 N13 1.17e-10
R13 N12 N13 4.03e-02
C14 N13 N14 5.62e-07
L14 N13 N14 4.47e-11
R14 N13 N14 6.54e-03
C15 N14 Port2 6.13e-12
L15 N14 Port2 4.16e-11
R15 N14 Port2 7.77e+00
.ENDS GRM155R61H474ME11
